US09062013B2
Ethyl 3-methyl-cinnamate
3-Methylbenzaldehyde (12.0 g, 100 mmol) and mono-ethyl malonate (15.5 ml, 130 mmol) were reacted as described under General Procedure A to furnish the title compound (16.7 g, 88%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 7.66 (d, J=16.0 Hz, 1H), 7.34-7.18 (m, 4H), 6.42 (d, J=16.0 Hz, 1H), 4.26 (q, J=7.2 Hz, 2H), 2.37 (s, 3H), 1.33 (t, J=7.2 Hz, 3H).

reactant | 3-Methylbenzaldehyde | 100 mmol, 12.0 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | mono-ethyl malonate | 130 mmol, 15.5 ml | C(CC(=O)[O-])(=O)OCC
product | Ethyl 3-methyl-cinnamate | 16.7 g, 88% | CC=1C=C(C=CC(=O)OCC)C=CC1 | C12H14O2
